US05116863
(Raw material 6) Methyl 11-methylene-6,11-dihydrodibenz-[b,e]oxepin-2-carboxylate
In 100 ml of tetrahydrofuran is suspended 25 g of methyltriphenylphosphonium bromide and 40 ml of 1.6 N-n-butyl lithium helium hexane solution is dropwise added thereto under a nitrogen atmosphere and ice-cooling. After stirring the mixture under ice-cooling for 30 minutes, a solution obtained by dissolving 15 g of methyl 11-oxo-6,11-dihydrodibenz[b,e]oxepin-2-carboxylate in 250 ml of tetrahydrofuran is dropwise added thereto and the mixture is stirred at room temperature for two hours. The solvent is distilled away under reduced pressure and the residue is purified by column chromatography on silica gel (eluent: hexane:ethyl acetate=3:1) to obtain 3.7 g of the desired product as a colorless oily matter.

reactant | methyl 11-oxo-6,11-dihydrodibenz[b,e]oxepin-2-carboxylate | 15 g | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)OC | C16H12O4
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
catalyst | methyltriphenylphosphonium bromide | 25 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | Methyl 11-methylene-6,11-dihydrodibenz-[b,e]oxepin-2-carboxylate | 3.7 g | C=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)OC | C17H14O3
